US05985871
7,8-Dihydro-5a-methyl-10H-1,3-dioxolo[4,5-g]oxazolo[2,3-b][1,3]benzoxazin-10-one (8)
4,5-Methylenedioxysalicylic acid (0.472 g; 2.59 mmol) was suspended in 8 mL dry chloroform to which was added 0.476 g (4.00 mmol) thionyl chloride. The reaction mixture was heated at reflux for 3 h, during which time the suspension turned into a dark solution. The solution was allowed to cool to ambient and the solvent and excess thionyl chloride were removed in vacuo. The residue was dissolved in 8 mL methylene chloride and 0.392 g (4.60 mmol) 2-methyl-2-oxazoline was added dropwise. The solution was stirred for 1 h and then concentrated onto silica gel for subsequent purification by column chromatography (hexane/ethyl acetate=2:1) to yield 0.500 g of crude product. The product was recrystallized from ethyl acetate/hexane (1:10) to give 0.392 g (64% yield) of white crystalline solid with mp 132-133° C. IR (thin film): 1659, 1629, 1454, 1376, and 1267 cm-1. 1H NMR (500 MHz; CDCl3) δ 7.28 (1H, s), 6.48 (1H, s), 6.00 (2H, AB quartet), 4.27 (1H, dd, J=10.5 & 5.6 Hz), 4.17-4.23 (1H, m), 4.05-4.13 (1H, m), 3.55 (1H, td, J=10.6 & 6.5 Hz), and 1.59 ppm (3H, s).

reactant | 4,5-Methylenedioxysalicylic acid | 2.59 mmol, 0.472 g | C1OC=2C=C(C(C(=O)O)=CC2O1)O | C8H6O5
reactant | thionyl chloride | 4.00 mmol, 0.476 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-methyl-2-oxazoline | 4.60 mmol, 0.392 g | CC=1OCCN1 | C4H7NO
solvent | chloroform | 8 mL | C(Cl)(Cl)Cl | CHCl3
product | 7,8-Dihydro-5a-methyl-10H-1,3-dioxolo[4,5-g]oxazolo[2,3-b][1,3]benzoxazin-10-one | 0.392 g, 64% yield | CC12OC3=C(C(N1CCO2)=O)C=C2C(=C3)OCO2 | C12H11NO5
